US08252833B2
Ethyl {4-[4,9-bis(ethyloxy)-1-hydroxy-3-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate
To a stirred solution of ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate (0.240 g, 0.50 mmol) in THF (10 ml) and methanol (5 ml) was added sodium borohydride (0.019 g, 0.50 mmol) slowly under an argon atmosphere. This was stirred at room temperature for 15 minutes, and then a further 0.057 g (1.50 mmol) of sodium borohydride was added to drive the reaction to completion. After 1.5 hours the reaction was evaporated and quenched with an aqueous solution of ammonium chloride. This was extracted ×2 with ethyl acetate (25 ml) and the combined extracts washed with brine. The organics layer was then dried over magnesium sulphate, filtered and evaporated to give the title compound as a yellow oily solid (0.240 g, 0.49 mmol) LC/MS: Rt=3.42 and 3.46, [MH]+ 486.

reactant | ethyl {4-[4,9-bis(ethyloxy)-1,3-dioxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate | 0.50 mmol, 0.240 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1F)CC(=O)OCC)F)=O)OCC)C=CC=C2 | C26H23F2NO6
reactant | sodium borohydride | 0.50 mmol, 0.019 g | [BH4-].[Na+]
reactant | sodium borohydride | 1.50 mmol, 0.057 g | [BH4-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | Ethyl {4-[4,9-bis(ethyloxy)-1-hydroxy-3-oxo-1,3-dihydro-2H-benzo[f]isoindol-2-yl]-3,5-difluorophenyl}acetate | 0.49 mmol, 0.240 g | C(C)OC1=C2C(=C(C=3C(N(C(C13)=O)C1=C(C=C(C=C1F)CC(=O)OCC)F)O)OCC)C=CC=C2 | C26H25F2NO6
